US05767131
A suspension of 4-nitrobenzaldehyde (5.00 g, 33.0 mmol), 2-cyanoethyl acetoacetate (5.13 g, 33.0 mmol), piperidine (140 mg, 1.65 mmol) and acetic acid (99 mg, 1.7 mmol) in 150 ml of 2-propanol was stirred at r.t. for 48 hrs. Reaction mixture was filtered, the solid collected was dried in air to give 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester as a white powder (6.08 g, 64%). A solution of 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester (4.29 g, 14.9 mmol) and 3-amino- N-methylcrotonamide (2.55 g, 22.3 mmol) in 50 ml of EtOH was refluxed for 36 hrs. After solvent was removed, the residue was dissolved in 250 ml of CHCl3 washed with water (2×100 ml) and dried over Na2SO4. After filtration and removal of solvent, 3-(2-cyanoethoxy) carbonyl-1,4-dihydro-2,6-dimethyl-5-(N-methyl) carboxamido-4-(4-nitrophenyl) pyridine was obtain as a yellow powder (7.96 g, 63%). The solution of 3-(2-cyanoethoxy) carbonyl-1,4-dihydro-2,6-dimethyl-5-(N-methyl) carboxamido-4-(4-nitrophenyl) pyridine (2.00 g, 5.20 mmol) in 40 ml acetone was treated with 40 ml 1N KOH solution at 0° C. for 45 min. The acetone was removed in vacuo and aqueous layer was acidified to pH=3 by 2N hydrochloric acid, the yellow precipitation was collected by filtration, washed with 10 ml of cold water and dried n vacuo. 1.53 g (89% yield) of 1,4-dihydro-2,6-dimethyl-5-(N-methyl)carboxamido-4-(4-nitrophenyl)pyridine-3-carboxylic acid was obtained as a yellow powder.

reactant | 4-nitrobenzaldehyde | 33.0 mmol, 5.00 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | 2-cyanoethyl acetoacetate | 33.0 mmol, 5.13 g | C(CC(=O)C)(=O)OCCC#N | C7H9NO3
solvent | 2-propanol | 150 ml | CC(C)O | C3H8O
catalyst | piperidine | 1.65 mmol, 140 mg | N1CCCCC1 | C5H11N
catalyst | acetic acid | 1.7 mmol, 99 mg | C(C)(=O)O | C2H4O2
product | 2-[(4-nitrophenyl)methylene]-3-oxobutanoic acid 2-cyanoethyl ester | 6.08 g, 64% | C(#N)CCOC(C(C(C)=O)=CC1=CC=C(C=C1)[N+](=O)[O-])=O | C14H12N2O5
